US04329347
6-[4-(2-Quinazolin-4-one-yl-mercapto)-butoxy]-3,4-dihydrocarbostyril
Prepared analogous to Example 1 from 6-(4-bromobutoxy)-3,4-dihydro-carbostyril m.p. 142°-147° C.) and 2-mercaptoquinazoline-4-one.

reactant | 6-(4-bromobutoxy)-3,4-dihydro-carbostyril | BrCCCCOC=1C=C2CCC(NC2=CC1)=O | C13H16BrNO2
reactant | 2-mercaptoquinazoline-4-one | SC1=NC2=CC=CC=C2C(N1)=O | C8H6N2OS
product | 6-[4-(2-Quinazolin-4-one-yl-mercapto)-butoxy]-3,4-dihydrocarbostyril | N1=C(NC(C2=CC=CC=C12)=O)SCCCCOC=1C=C2CCC(NC2=CC1)=O | C21H21N3O3S
